US08207177B2
Step a: N-[((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methyl]-N-methylsulfamide
tert-Butyl(aminosulfonyl)[((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)-methyl]carbamate (108 mg, 0.000164 mol) was dissolved in tetrahydrofuran (2.0 mL) under an atmosphere of nitrogen. Lithium tetrahydroaluminate (12.5 mg, 0.000329 mol) was added and the mixture heated at 50° C. for 80 minutes. The reaction was then cooled, quenched with water and acidified to ˜pH 6 with 1M HCl. This mixture was then extracted with ethyl acetate, the separated organic phase was evaporated, and the residue was purified by silica gel chromatography, eluting with 10 to 100% ethyl acetate in hexanes, to yield the product, 25 mg (27%). LC/MS: Rt=2.34 min, ES+ 571 (AA standard).

reactant | tert-Butyl(aminosulfonyl)[((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)-methyl]carbamate | 0.000164 mol, 108 mg | C(C)(C)(C)OC(N(C[C@H]1[C@H](C[C@@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)O[Si](C)(C)C(C)(C)C)S(=O)(=O)N)=O | C32H48N6O5SSi
reactant | Lithium tetrahydroaluminate | 0.000329 mol, 12.5 mg | [AlH4-].[Li+]
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
product | N-[((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methyl]-N-methylsulfamide | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)CN(S(=O)(=O)N)C | C28H42N6O3SSi
